US06593472B2
c) N-Methyl-6-morpholin-4-yl-4-o-tolyl-nicotinamide
A mixture of 1.00 g (3.84 mmol) 6-chloro-N-methyl-4-o-tolyl-nicotinamide, 0.37 ml (4.22 mmol) morpholine, 2.0 ml (12 mmol) N-ethyldiisopropylamine and a catalytic amount of 4-(N,N-dimethylamino)-pyridine was heated at 100° C. over night. After cooling to room temperature the mixture was dissolved in ethyl acetate and washed with two portions of water. The combined aqueous layers were extracted with 3 portions of dichloromethane. Drying with sodium sulfate and concentration gave 1.23 g of the crude product. Flash column chromatography afforded 1.11 g (92.9%) of the title compound as an off-white solid. M.p. 156-158° C.

reactant | 6-chloro-N-methyl-4-o-tolyl-nicotinamide | 3.84 mmol, 1.00 g | ClC1=NC=C(C(=O)NC)C(=C1)C1=C(C=CC=C1)C | C14H13ClN2O
reactant | morpholine | 4.22 mmol, 0.37 ml | N1CCOCC1 | C4H9NO
reactant | N-ethyldiisopropylamine | 12 mmol, 2.0 ml | C(C)N(C(C)C)C(C)C | C8H19N
catalyst | 4-(N,N-dimethylamino)-pyridine | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-Methyl-6-morpholin-4-yl-4-o-tolyl-nicotinamide | 1.11 g, 92.9% | CNC(C1=CN=C(C=C1C1=C(C=CC=C1)C)N1CCOCC1)=O | C18H21N3O2
